US05981539
(±)-trans-N-Pentyl-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine oxalic acid salt.
To a solution of (±)-trans-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine (0.50 g, 1.5 mmol) and 1-bromopentane (242 mg, 1.6 mmol) in DMF (10 ml) was added potassium carbonate (300 mg, 2.2 mmol) and the mixture was stirred at 100° C. for 3 h. Water (50 ml) was added and the product was extracted with ethyl acetate (3×20 ml). Drying over magnesium sulfate and evaporation of the solvent was followed by column chromatography on silica gel with 4% ethanol in dichloromethane. The title compound was obtained by dissolving the product in ether and adding a saturated solution of oxalic acid in ether. mp 122-124° C.

reactant | (±)-trans-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine | 1.5 mmol, 0.50 g | O(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@@H](CNCC2)OCCOC)C=C1 | C20H25NO4
reactant | 1-bromopentane | 1.6 mmol, 242 mg | BrCCCCC | C5H11Br
reactant | potassium carbonate | 2.2 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (±)-trans-N-Pentyl-4-(4-phenoxyphenoxy)-3-(2-methoxy-1-ethoxy)piperidine oxalic acid salt | C(C(=O)O)(=O)O.C(CCCC)N1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)OCCOC | InChI=1S/C25H35NO4.C2H2O4/c1-3-4-8-16-26-17-15-24(25(20-26)28-19-18-27-2)30-23-13-11-22(12-14-23)29-21-9-6-5-7-10-21;3-1(4)2(5)6/h5-7,9-14,24-25H,3-4,8,15-20H2,1-2H3;(H,3,4)(H,5,6)/t24-,25-;/m1./s1
